US04381406
Using a method similar to the known preparation of diallyl phthalate by reacting allyl chloride with metal salts of phthalic acid, Matsumoto et al prepared DATCP by reacting disodium tetrachlorophthalate with 2 moles of allyl chloride in an aqueous solution containing cuprous ions. Diallyl tetrachlorophthalate was also produced by Guseinov et al who reacted the anhydride with 3 moles of allyl alcohol plus 1 mole of hydrochloric acid in a benzene solution (Azerbaizhan Chemical Journal, No. 6, (1964), 21-23). Nordlander et al also produced DATCP by reacting the tetrachlorophthalic anhydride with 2 moles of allyl alcohol using sulfuric acid as a catalyst and driving off the water of reaction by distillation as an azeotrope with benzene (Journal of the American Chemical Society, 69, Nov., (1947), 2679-2682). However, only a 10% to 15% yield of the DATCP was obtained because of dehydration and polymerization reactions of the allyl alcohol.

reactant | diallyl phthalate | C(C=1C(C(=O)OCC=C)=CC=CC1)(=O)OCC=C | C14H14O4
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | disodium tetrachlorophthalate | ClC=1C(=C(C(=C(C1C(=O)[O-])C(=O)[O-])Cl)Cl)Cl.[Na+].[Na+]
reactant | allyl chloride | 2 moles | C(C=C)Cl | C3H5Cl
product | Diallyl tetrachlorophthalate | ClC=1C(=C(C(=C(C1C(=O)OCC=C)C(=O)OCC=C)Cl)Cl)Cl | C14H10Cl4O4
